US07648998B2
Phosphorous pentoxide (24.56 g) was dissolved in methanesulfonic acid (165.8 mL) at 50° C. with stirring. To the solution, 3,4-diaminopyridine (12.3 g, 0—11 moles) and 2,3-difluorobenzoic acid (19.4 g, 0.12 moles) were added. The reaction mixture was heated to 190° C. for 3 hours. The reaction was done three times. The reaction mixtures was cooled to 50° C. and poured into ice with stirring. At this stage, all three batches were combined. The reaction mixture was neutralized by the addition of NaOH with stirring until the pH is 8. Solid material precipitated out of solution, was collected by filtration and air-dried. The final product was re-crystallized from ethanol/water twice to yield 36 g of 2-(2,3-difluorophenyl)-3H-imidazo[4,5-c]pyridine. 1H 300 Mhz (CD3OD) sigma 7.3-7.42 (m, 1p); 7.43-7.58 (m, 1p); 7.70 (d, 1p); 8.0 (m, 1p); 8.34 (d, 1p); and 8.95 (s, 1p). LC/MS data M/z=232.

reactant | Phosphorous pentoxide | 24.56 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 3,4-diaminopyridine | 0—11 moles, 12.3 g | NC=1C=NC=CC1N | C5H7N3
reactant | 2,3-difluorobenzoic acid | 0.12 moles, 19.4 g | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
reactant | NaOH | [OH-].[Na+]
solvent | methanesulfonic acid | 165.8 mL | CS(=O)(=O)O | CH4O3S
product | 2-(2,3-difluorophenyl)-3H-imidazo[4,5-c]pyridine | 36 g | FC1=C(C=CC=C1F)C1=NC2=C(C=NC=C2)N1 | C12H7F2N3
